US06682782B2
Thereafter, 60 ml of 1N potassium hydroxide solution was slowly added to 10.12 g(28.2 mmol) of 2,7-di(trimethylsilylethynyl)fluorene dissolved in 150 mL of methanol. The reaction mixture was stirred for 3 h at room temperature and solvent was removed. Residue was extracted with ether and the ether layer was washed with distilled water. The washed ether layer was concentrated. The crude product was purified by column chromatography on silica gel by eluting with hexane/ethylacetate (15/1) to give 1.35 g (72%) of 2,7-diethynylfluorene of which mp was 125° C.

reactant | potassium hydroxide | 1N, 60 ml | [OH-].[K+]
reactant | 2,7-di(trimethylsilylethynyl)fluorene | 28.2 mmol, 10.12 g | C[Si](C)(C)C#CC1=CC=2CC3=CC(=CC=C3C2C=C1)C#C[Si](C)(C)C | C23H26Si2
solvent | methanol | 150 mL | CO | CH4O
product | 2,7-diethynylfluorene | 1.35 g, 72% | C(#C)C1=CC=2CC3=CC(=CC=C3C2C=C1)C#C | C17H10
